US09421532B2
A 20-mL eggplant flask equipped with a three-way cock and a magnetic stirrer was heat dried while pumping to a vacuum of 5 Pa before its interior was purged with argon atmosphere. Into the flask, iron complex A (1.0 mg, 0.002 mmol) was admitted as catalyst and dissolved in toluene (0.5 mL). To the solution, 1,2-bis(dimethylsilyl)benzene (475 μL) was added through a syringe, and N-benzyl-ε-caprolactam (203 mg, 1.0 mmol) was added. The solution was stirred at 100° C. for 30 minutes. Toluene was distilled off in vacuum. The crude product was purified by silica gel-packed column chromatography using hexane/ethyl acetate (10/1) as developing solvent, obtaining 1-benzylazepane (169 mg, 0.89 mmol, 89%). The results are shown as Entry 5 in Table 5. The resulting amine was identified for geometry by 1H and 13C-NMR spectroscopy and IR spectroscopy.

reactant | 1,2-bis(dimethylsilyl)benzene | 475 μL | C[SiH](C1=C(C=CC=C1)[SiH](C)C)C | C10H18Si2
reactant | N-benzyl-ε-caprolactam | 1.0 mmol, 203 mg | C(C1=CC=CC=C1)N1C(CCCCC1)=O | C13H17NO
solvent | toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
product | 1-benzylazepane | 0.89 mmol, 169 mg, 89% | C(C1=CC=CC=C1)N1CCCCCC1 | C13H19N
